US06762205B1
190 mg of 4-[N-(3-pyridyl)amino]benzonitrile was dissolved in 5 ml of N,N-dimethylformamide, and 44 mg of 60% sodium hydride was added thereto under cooling with ice, followed by stirring at 40-50° C. for 30 minutes. Then, 273 mg of 4-benzyloxybenzyl chloride was added to the reaction mixture under cooling with ice, followed by stirring at room temperature for 2 hours. After the reaction mixture was poured into water, the product was extracted with chloroform. After the extract was washed with water and dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting crude product was purified by TLC (using a 1:1 mixture of ethyl acetate and hexane as the developing solvent) to obtain 234 mg of 4-[N-(4-benzyloxy-benzyl)-N-(3-pyridyl)amino]benzonitrile.

reactant | 4-[N-(3-pyridyl)amino]benzonitrile | 190 mg | N1=CC(=CC=C1)NC1=CC=C(C#N)C=C1 | C12H9N3
reactant | sodium hydride | 44 mg | [H-].[Na+]
reactant | 4-benzyloxybenzyl chloride | 273 mg | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-[N-(4-benzyloxy-benzyl)-N-(3-pyridyl)amino]benzonitrile | 234 mg | C(C1=CC=CC=C1)OC1=CC=C(CN(C=2C=NC=CC2)C2=CC=C(C#N)C=C2)C=C1 | C26H21N3O
